US05151420
4,5-dihydro-5-methyl-6-(2,4-dihydro-2-phenyl-6-quinoxalinyl)pyridazin-3(2H)one
A solution containing 0.3 g of 6-(3,4-diaminophenyl)-5-methyl-4,5-dihydropyridazin-3(2H)one, 0.3 g of phenacyl bromide and 0.14 g of sodium acetate in 2.6 ml of ethanol was stirred for 3.5 h at room temperature. The product was washed with water and ethanol. Yield 0.1 g (23%), m.p. 209°-215° C.

reactant | 6-(3,4-diaminophenyl)-5-methyl-4,5-dihydropyridazin-3(2H)one | 0.3 g | NC=1C=C(C=CC1N)C=1C(CC(NN1)=O)C | C11H14N4O
reactant | phenacyl bromide | 0.3 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | sodium acetate | 0.14 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 2.6 ml | C(C)O | C2H6O
product | 4,5-dihydro-5-methyl-6-(2,4-dihydro-2-phenyl-6-quinoxalinyl)pyridazin-3(2H)one | CC1CC(NN=C1C=1C=C2NCC(NC2=CC1)C1=CC=CC=C1)=O | C19H20N4O
